US09446130B2
The mixture of 1-bromo-3-(3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine-7-yl)imidazo[1,5-a]pyrazin-8-amine (200 mg, 0.497 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide (194.54 mg, 0.497 mmol), Pd(dppf)Cl2 (18.3 mg, 0.025 mmol) and K2CO3 (137.26 mg, 0.995 mmol) in dioxane/H2O (5 mL/0.5 mL) was stirred at 90° C. for 2 h under nitrogen atmosphere. Remove the solvent in vacuo. The mixture was treated with ethyl acetate and water, the organic layer was separated, dried over sodium sulfate, filtered and the filtrate was concentrated. The residue was purified by preparative HPLC separation to give 4-(8-amino-3-(3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)imidazo[1,5-a]pyrazin-1-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide (0.16 g, yield 50%).

reactant | 1-bromo-3-(3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine-7-yl)imidazo[1,5-a]pyrazin-8-amine | 0.497 mmol, 200 mg | BrC=1N=C(N2C1C(=NC=C2)N)C2CC=1N(CC2)C(=NN1)C(F)(F)F | C13H11BrF3N7
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide | 0.497 mmol, 194.54 mg | CC1(OB(OC1(C)C)C1=CC=C(C(=O)NC2=NC=CC(=C2)C(F)(F)F)C=C1)C | C19H20BF3N2O3
reactant | K2CO3 | 0.995 mmol, 137.26 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane H2O | 5 mL | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 0.025 mmol, 18.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(8-amino-3-(3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)imidazo[1,5-a]pyrazin-1-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide | 0.16 g, yield 50% | NC=1C=2N(C=CN1)C(=NC2C2=CC=C(C(=O)NC1=NC=CC(=C1)C(F)(F)F)C=C2)C2CC=1N(CC2)C(=NN1)C(F)(F)F | C26H19F6N9O
